US05376451
Into a 2-liter 3-necked round bottomed flask equipped with condenser, stirrer and heating mantle, were placed 125.0 g (1.0 mol) of 2-aminothiophenol, 350 ml of ethanol and 40 g (1.0 mol) of sodium hydroxide dissolved in 40 ml of water. Stirring was begun and after 15 min, 249.24 g (1.0 mol) of 1-bromododecane was added. Heating was begun and the solution heated at reflux overnight. Upon cooling, solvent was removed at reduced pressure and water (500ml) and dichloromethane (500 ml) were added. The mixture was transferred to a 2-liter separatory funnel and the layers separated. The aqueous layer was discarded, the organic layer washed with 500 ml of aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The crude material was passed through a bed of silica, solvent was removed at reduced pressure, and the material distilled under vacuum to afford 220 g (75%) of 2-(dodecylthio)aniline (b.p. 180° C. at 0.25 mm).

reactant | 2-aminothiophenol | 1.0 mol, 125.0 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | ethanol | 350 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1.0 mol, 40 g | [OH-].[Na+]
reactant | 1-bromododecane | 1.0 mol, 249.24 g | BrCCCCCCCCCCCC | C12H25Br
solvent | water | 40 ml | O | H2O
product | 2-(dodecylthio)aniline | 220 g, 75% | C(CCCCCCCCCCC)SC1=C(N)C=CC=C1 | C18H31NS
